US08956999B2
To a suspension of 2,2,6,6-tetramethylpyran-3,5-dione (741 mg, 4.35 mmol) in chloroform (10 ml) is added phosphorus pentachloride (454 mg, 2.18 mmol), and the reaction is heated to reflux for 5 hours. Silica gel is added to the cooled crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 5-chloro-2,2,6,6-tetramethyl-6H-pyran-3-one (349 mg).

reactant | 2,2,6,6-tetramethylpyran-3,5-dione | 4.35 mmol, 741 mg | CC1(OC(C(CC1=O)=O)(C)C)C | C9H14O3
reactant | phosphorus pentachloride | 2.18 mmol, 454 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2,2,6,6-tetramethyl-6H-pyran-3-one | 349 mg | ClC1=CC(C(OC1(C)C)(C)C)=O | C9H13ClO2
